US06339045B1
Production of N-phenyl-4-dimethylamino-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide (compound No. I-24)
0.8 g (0.0022 mol) of 2-bromo-4-dimethylamino-6-{3-(trifluoromethyl)phenoxy} pyridine was dissolved in about 15 ml of diethyl ether. While cooling the solution in a dry ice-acetone bath in an argon atmosphere, 1.5 ml of a 1.6M-hexane solution of BuLi (0.0022×1.1 mol) was added to the solution, followed by stirring the solution for about 10 minutes. After 0.60 g (0.0022×2.3 mol) of phenyl isocyanate dissolved in about 5 ml of diethyl ether was added to the reaction solution, the solution was removed from the bath and stirred at room temperature for about 30 minutes. The reaction solution was mixed with about 5 ml of a 1.2N-aqueous hydrochloric acid solution, and then distributed in ethyl acetate-water, followed by washing with saturated sodium bicarbonate water and saturated brine. The organic phase of the obtained solution was dried with anhydrous sodium sulfate, concentrated and subjected to silica gel column chromatography (eluting solution: ethyl acetate/hexane) to separate a main fraction therefrom. The fraction was concentrated and then precipitated with hexane, thereby obtaining an aimed product.

reactant | 2-bromo-4-dimethylamino-6-{3-(trifluoromethyl)phenoxy} pyridine | 0.0022 mol, 0.8 g | BrC1=NC(=CC(=C1)N(C)C)OC1=CC(=CC=C1)C(F)(F)F | C14H12BrF3N2O
reactant | hexane | CCCCCC | C6H14
reactant | BuLi | 1.1 mol | [Li]CCCC
reactant | phenyl isocyanate | 2.3 mol, 0.60 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | diethyl ether | about 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | about 5 ml | C(C)OCC | C4H10O
product | N-phenyl-4-dimethylamino-6-{3-(trifluoromethyl)phenoxy}-2-pyridine carboxamide | C1(=CC=CC=C1)NC(=O)C1=NC(=CC(=C1)N(C)C)OC1=CC(=CC=C1)C(F)(F)F | C21H18F3N3O2
